US05674856
15(a) 5'-O-Trityl-N-benzoyl-2'-deoxycytidine
3.31 g (10 mmol) of N-benzoyl-2'-deoxycytidine were added to 25 ml of pyridine, and then 3.07 g (11 mmol) of trityl chloride were added to the suspension. The resulting suspension was stirred at 100° C. for 1 hour, after which it was allowed to cool to room temperature. The pyridine was then removed by distillation under reduced pressure. The resulting residue was dissolved in a mixture of ethyl acetate and a saturated aqueous solution of sodium chloride. The organic layer was separated and washed twice, each time with a saturated aqueous solution of sodium chloride. The solution was then dried over anhydrous magnesium sulfate, after which the solvent was removed by distillation under reduced pressure. The resulting residue was purified by column chromatography through silica gel (Lober column Si-60, Size C) using a gradient elution method, with mixtures of methanol and methylene chloride ranging from 2:98 to 5:95 by volume as the eluent, to give 1.47 g (yield 26%) of the title compound.

reactant | N-benzoyl-2'-deoxycytidine | 10 mmol, 3.31 g | C(C1=CC=CC=C1)(=O)NC1=NC(N([C@H]2C[C@H](O)[C@@H](CO)O2)C=C1)=O | C16H17N3O5
reactant | pyridine | 25 ml | N1=CC=CC=C1 | C5H5N
reactant | trityl chloride | 11 mmol, 3.07 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | methanol | CO | CH4O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5'-O-Trityl-N-benzoyl-2'-deoxycytidine | 1.47 g, yield 26% | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@@H]1[C@H](C[C@@H](O1)N1C(=O)N=C(NC(C2=CC=CC=C2)=O)C=C1)O | C35H31N3O5
